US07989463B2
Synthesis of 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid cyclopentylamide
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.48 g, 2.5 mmol) was added to a mixture of 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid (0.5 g, 1.2 mmol), 1-hydroxybenzotrialzole (0.09 g, 0.65 mmol), diisopropylethylamine (0.43 mL, 2.5 mmol), and cyclopentylamine (0.13 mL, 1.3 mmol) in anhydrous dimethylformamide and stirred at a temperature in the range of 15° C. to 25° C. under N2 for 16 hours. The reaction was quenched by addition of water. The precipitated solid was filtered, washed with water and dried in vacuo. The crude was purified by column chromatography (silica gel) to afford the title compound as a white solid (0.26 g, 45% yield).

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 2.5 mmol, 0.48 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid | 1.2 mmol, 0.5 g | N1(CCOCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)C(=O)O)CCC2 | C22H26N4O3
reactant | diisopropylethylamine | 2.5 mmol, 0.43 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopentylamine | 1.3 mmol, 0.13 mL | C1(CCCC1)N | C5H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid cyclopentylamide | 0.26 g, 45% yield | C1(CCCC1)NC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)N2CCOCC2 | C27H35N5O2
